US07285563B2
N-[quinolin-6-yl]-N′-[4-(trifluoromethoxy)phenyl]urea
Prepared from 6-aminoquinoline and 4-(trifluoromethoxy)phenyl isocyanate. m/z (ES+) 348 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 4-(trifluoromethoxy)phenyl isocyanate | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
product | N-[quinolin-6-yl]-N′-[4-(trifluoromethoxy)phenyl]urea | N1=CC=CC2=CC(=CC=C12)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C17H12F3N3O2
